US08022209B2
1-[2-(5-Ethyl-thiophen-3-yl)-pyridin-4-yl]-4-methyl-piperazine
A solution of 1-Methyl-4-[2-(5-vinyl-thiophen-3-yl)-pyridin-4-yl]-piperazine in ethanol was treated with a catalytic amount of 10% palladium on carbon and placed under an H2 atmosphere at room temperature. The resulting mixture was filtered and concentrated to yield the title compound.

reactant | 1-Methyl-4-[2-(5-vinyl-thiophen-3-yl)-pyridin-4-yl]-piperazine | CN1CCN(CC1)C1=CC(=NC=C1)C1=CSC(=C1)C=C | C16H19N3S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-[2-(5-Ethyl-thiophen-3-yl)-pyridin-4-yl]-4-methyl-piperazine | C(C)C1=CC(=CS1)C1=NC=CC(=C1)N1CCN(CC1)C | C16H21N3S
